US04303655
To a suspension of ethyl 2-(2-formylamino-1,3-thiazol-4-yl)glyoxylate, which can be represented as ethyl 2-(2-formylimino-2,3-dihydro-1,3-thiazol-4-yl)glyoxylate, (31.3 g.) in ethanol (600 ml.) was dropwise added phosphorus oxychloride (41.9 g.) under ice-cooling and stirring, and the mixture was stirred for 30 minutes at 50° C. After the reaction, the solvent was distilled off. The residue was washed with diethyl ether and then dried to give ethyl 2-(2-amino-1,3-thiazol-4-yl)glyoxylate hydrochloride, which can be represented as ethyl 2-(2-imino-2,3-dihydro-1,3-thiazol-4-yl)glyoxylate hydrochloride, in quantitative yield, mp 263° to 264° C. (dec.).

reactant | ethyl 2-(2-formylamino-1,3-thiazol-4-yl)glyoxylate | C(=O)NC=1SC=C(N1)C(C(=O)OCC)=O | C8H8N2O4S
reactant | ethyl 2-(2-formylimino-2,3-dihydro-1,3-thiazol-4-yl)glyoxylate | C(=O)N=C1SC=C(N1)C(C(=O)OCC)=O | C8H8N2O4S
reactant | phosphorus oxychloride | 41.9 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | ethanol | 600 ml | C(C)O | C2H6O
product | ethyl 2-(2-amino-1,3-thiazol-4-yl)glyoxylate hydrochloride | quantitative yield | Cl.NC=1SC=C(N1)C(C(=O)OCC)=O | InChI=1S/C7H8N2O3S.ClH/c1-2-12-6(11)5(10)4-3-13-7(8)9-4;/h3H,2H2,1H3,(H2,8,9);1H
